data/mechanism_extracts/Angew/10.1002_anie.202110616_sup_1.json
{"doi": "10.1002_anie.202110616_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical Ru/Os-catalyzed C-H activation/annulation of benzoic acids with n-butyl acrylate to form isobenzofuranone (phthalide) products via Heck-type insertion and lactonization", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation regenerates the active high-valent Ru(II)/Os(II) catalyst (reoxidation of reduced metal species after C-H metalation/migratory insertion/β-H elimination); the metal carboxylate mediates C-H cleavage via CMD", "key_intermediates": [{"name": "Ru(II)/Os(II) p-cymene carboxylate complex (substrate-bound)", "smiles": null, "role": "reactive"}, {"name": "5-membered ruthenacycle/osmacycle from ortho C-H metalation (CMD)", "smiles": null, "role": "reactive"}, {"name": "alkyl-metal intermediate after migratory insertion of acrylate", "smiles": null, "role": "transient"}, {"name": "lactone product 4 (phthalide with CH2CO2nBu sidechain)", "smiles": "O=C1OC(CC(=O)OCCCC)c2cc(C(F)(F)F)ccc12", "role": "reactive"}], "electron_flow": "Metal carboxylate performs concerted metalation-deprotonation of the ortho C-H, then migratory insertion into n-butyl acrylate gives an alkyl-metal species which lactonizes to give the phthalide; the reduced metal is reoxidized at the anode (graphite felt) with H2 evolution at the Pt cathode.", "rate_determining_step": "C-H metalation is not rate-limiting (KIE ~1.1-1.2 from intermolecular competition and parallel experiments)", "probe_reagents": [{"name": "D2O (H/D exchange on substrate IV)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Significant ortho-aryl H/D incorporation (8-10%D) on recovered benzoic acid IV and high D incorporation at benzylic/α positions of product 4 (47%D, 31%D, 11%D), indicating reversible C-H metalation"}, {"name": "Product 4 resubjected with D2O under electro-Ru catalysis", "smiles": null, "purpose": "intermediate_trap", "observation": "0%D incorporation; [D]n-4 recovered 99% - product is not re-activated, ruling out post-catalysis exchange and confirming on-cycle C-H activation"}, {"name": "Product 4 resubjected with D2O under electro-Os catalysis", "smiles": null, "purpose": "intermediate_trap", "observation": "0%D, [D]n-4 99% - same conclusion for Os system"}, {"name": "[D]7-I (perdeuterated substrate) intermolecular competition with I", "smiles": null, "purpose": "KIE", "observation": "KIE = 1.1, suggesting C-H cleavage is not rate-determining"}, {"name": "I vs [D]7-I parallel kinetic experiments", "smiles": null, "purpose": "KIE", "observation": "kH/kD = 0.3033/0.26 ≈ 1.2; consistent with non-rate-limiting C-H activation"}, {"name": "HR-ESI-MS detection of organometallic intermediates", "smiles": null, "purpose": "intermediate_trap", "observation": "Detected Os-p-cymene species bound to carboxylate and with cyclometalated naphthoate/alkyne adducts ([M+Na] = 519.0976, 725.2071, 761.2799, and lactone product at 399.1361), supporting metallacycle pathway"}], "evidence_types_used": ["KIE", "H/D_labeling", "intermediate_trap_other", "product_isotope_distribution", "kinetic_order", "other"], "evidence_strength": "strong", "notes": "Both Ru and Os catalysts probed in parallel and give analogous mechanistic behavior (reversible ortho C-H metalation, low KIE, no product re-exchange). High-resolution MS identifies plausible metallacyclic intermediates including carboxylate-bound and alkyne/alkenyl-inserted species (drawn for a related naphthoic acid/alkyne system in Fig S12). Electrochemistry (CCE 4.0 mA, GF anode / Pt cathode) serves to reoxidize the metal rather than to generate substrate-centered radicals, consistent with inner-sphere electrocatalysis."}
